US07678820B2
To a solution of [4-(5-{3-(trifluoromethyl)-4-[(1S)-2,2,2-trifluoro-1-methylethoxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-1-yl]acetic acid (100 mg) in DMF (1 ml) was added CDI (39 mg), and after 30 min, methanesulfonamide (23 mg) and 2,3,4,6,7,8,9,10-octahydropyrimide[1,2-a]azepine (37 mg) were added thereto, followed by stirring at room temperature for 15 hours. The reaction mixture was added with water to complete the reaction. It was extracted with EtOAc, the obtained organic layer was washed with saturated brine, dried over anhydrous MgSO4, and then filtered, and the filtrate was concentrated. The residue was purified by silica gel column chromatography (chloroform:CH3OH=100:0 to 90:10) to obtain N-(methylsulfonyl)-2-[4-(5-{3-(trifluoromethyl)-4-[(1S)-2,2,2-trifluoro-1-methylethoxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-1-yl]acetamide (56.4 mg) as a white solid.

reactant | [4-(5-{3-(trifluoromethyl)-4-[(1S)-2,2,2-trifluoro-1-methylethoxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-1-yl]acetic acid | 100 mg | FC(C=1C=C(C=CC1O[C@H](C(F)(F)F)C)C1=NC(=NO1)C1=C2C=CN(C2=CC=C1)CC(=O)O)(F)F | C22H15F6N3O4
reactant | CDI | 39 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | methanesulfonamide | 23 mg | CS(=O)(=O)N | CH5NO2S
reactant | water | O | H2O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-(methylsulfonyl)-2-[4-(5-{3-(trifluoromethyl)-4-[(1S)-2,2,2-trifluoro-1-methylethoxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-1-yl]acetamide | 56.4 mg | CS(=O)(=O)NC(CN1C=CC2=C(C=CC=C12)C1=NOC(=N1)C1=CC(=C(C=C1)O[C@H](C(F)(F)F)C)C(F)(F)F)=O | C23H18F6N4O5S
